US07776910B2
A solution of BH3 (1 M in THF, 720 mL, 0.7194 mol) was slowly added to 4-bromo-2-methyl benzoic acid (51.57 g, 0.2398 mol) at 0° C. The ice-bath was removed and the mixture was stirred overnight at room temperature. The reaction mixture was cooled to 0° C. and water was slowly added. The reaction mixture was then stirred at room temperature for 30 minutes. The resulting mixture was extracted with EtOAc, and the combined organic extracts were washed with NaHCO3 (saturated solution), water and brine; dried over MgSO4, filtered and evaporated under reduced pressure affording (4-bromo-2-methyl-phenyl)-methanol, which was used directly in step 2 without further purification.

reactant | 4-bromo-2-methyl benzoic acid | 0.2398 mol, 51.57 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
solvent | THF | C1CCOC1 | C4H8O
product | (4-bromo-2-methyl-phenyl)-methanol | BrC1=CC(=C(C=C1)CO)C | C8H9BrO
